### PR TITLE
[Merged by Bors] - feat(Algebra/FreeAbelianGroup/Finsupp): the support of an element is zero iff the element is zero

### PR DESCRIPTION
**Pull request by Nicola9Falciola**
Added API about the support of an element of a FreeAbelianGroup .

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 1]
```diff
@@ -103,6 +103,10 @@ that occur in the formal sum `a`. -/
 def support (a : FreeAbelianGroup X) : Finset X :=
   a.toFinsupp.support
 
+lemma nonempty_support_of_ne_zero {a : FreeAbelianGroup X} (h : a ≠ 0) : Nonempty a.support := by
```
Comment (SnirBroshi) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: How about also:
```lean
theorem support_zero_iff (a : FreeAbelianGroup X) : a.support = ∅ ↔ a = 0 :=
  Finsupp.support_eq_empty.trans (equivFinsupp X).map_eq_zero_iff
```
then this theorem is `support_zero_iff.not.mpr` combined with `Finset.nonempty_iff_ne_empty`
(or just `grind [support_zero_iff]`)

Comment (SnirBroshi) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]:
```suggestion
lemma nonempty_support_of_ne_zero {a : FreeAbelianGroup X} (h : a ≠ 0) : a.support.Nonempty := by
```
These are equivalent by `Finset.nonempty_coe_sort`, but Mathlib usually prefers to use the specialized version

Comment (Nicola9Falciola) [reply Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: Yes, you're right this is way better, thank you

Comment (Nicola9Falciola) [reply Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: Thank you, I didn't know

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 2]
```diff
@@ -103,6 +103,9 @@ that occur in the formal sum `a`. -/
 def support (a : FreeAbelianGroup X) : Finset X :=
   a.toFinsupp.support
 
+theorem support_zero_iff (a : FreeAbelianGroup X) : a.support = ∅ ↔ a = 0 :=
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: to match [Finsupp.support_eq_empty](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Defs.html#Finsupp.support_eq_empty):
```suggestion
theorem support_eq_empty {a : FreeAbelianGroup X} : a.support = ∅ ↔ a = 0 :=
```

**Comment by themathqueen** [comment]
The title and description of this PR doesn't match what you currently have. Can you please update this?
Also, it should be `feat(Algebra/FreeAbelianGroup/Finsupp): ..` without spaces.

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 3]
```diff
@@ -103,6 +103,9 @@ that occur in the formal sum `a`. -/
 def support (a : FreeAbelianGroup X) : Finset X :=
   a.toFinsupp.support
 
+theorem support_eq_empty {a : FreeAbelianGroup X} : a.support = ∅ ↔ a = 0 :=
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]:
```suggestion
@[simp] theorem support_eq_empty {a : FreeAbelianGroup X} : a.support = ∅ ↔ a = 0 :=
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean:143]: can you also move all the new stuff down here instead of right after the definition?

**Review by themathqueen — COMMENTED** [review]
I guess it's also worth adding (to match the `Finsupp` API):

```lean
@[simp] theorem nonempty_support_iff {a : FreeAbelianGroup X} :
    a.support.Nonempty ↔ a ≠ 0 := by
  contrapose!; exact support_eq_empty

theorem card_support_eq_zero {a : FreeAbelianGroup X} : a.support.card = 0 ↔ a = 0 := by
  simp
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean
Comment (Nicola9Falciola) [reply Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean:143]: I should have done it, thank you for the suggestion.

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 4]
```diff
@@ -141,4 +141,11 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
   simp only [support, map_add]
   apply Finsupp.support_add
 
+@[simp] theorem nonempty_support_iff {a : FreeAbelianGroup X} :
+    a.support.Nonempty ↔ a ≠ 0 := by
+  contrapose!; exact support_eq_empty
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean:149]: I think you accidentally removed `support_eq_empty`

Comment (Nicola9Falciola) [reply Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean:149]: Yes, sorry I should have added it again, thank you.

**Comment by themathqueen** [comment]
Please "resolve conversation" of the comments when you address them. And then comment `-awaiting-author` when you're ready for another review :)

**Comment by themathqueen** [comment]
Can you update the PR description? I'm not sure I understand what it's saying, "change the theorem support_zero"? You didn't change anything?

**Review by themathqueen — COMMENTED** [review]
Thanks! And welcome to the community!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
